US05550280
Benzoyl chloride (5.2 g, 0.037 mole) was added slowly at room temperature to a stirred mixture of 2-methylcyclohexyl 5-amino-2-chlorobenzoate (10 g, 0.037 mole), triethylamine (4.0 g, 0.04 mole) dissolved in methylene chloride (100 ml). This reaction mixture was stirred at room temperature for 20 hours. The reaction mixture was then washed with water (200 ml), 3% HCl solution (100 ml), 2% NaOH solution (100 ml) and water (100 ml), dried (magnesium sulfate) and filtered. The solvent was evaporated off to give a brown oil which was crystallized with ethyl/hexane to give 2-methylcyclohexyl 2-chloro-5-(benzoylamino)benzoate as a white solid (5 G, m.p. 121°-122° C.)

reactant | Benzoyl chloride | 0.037 mole, 5.2 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | 2-methylcyclohexyl 5-amino-2-chlorobenzoate | 0.037 mole, 10 g | NC=1C=CC(=C(C(=O)OC2C(CCCC2)C)C1)Cl | C14H18ClNO2
reactant | triethylamine | 0.04 mole, 4.0 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 2-methylcyclohexyl 2-chloro-5-(benzoylamino)benzoate | ClC1=C(C(=O)OC2C(CCCC2)C)C=C(C=C1)NC(C1=CC=CC=C1)=O | C21H22ClNO3
